US06020097
To a mixture of 1155 grams of dichloromethane and 493.5 grams of 1,1,2-trichloroethane was added 8.04 grams of 4-((4-dimethylaminophenyl)-2,6diphenyl)-6-phenyl thiapyrylium tetrafluoroboiate and 5.36 grams of 4-(4dimethylaminophenyl)-2-(4-ethoxyphenyl)-6-phenyl thiapyrylium tetrafluoroborate. The mixture was stirred mechanically for one hour; to the resulting solution was added 102 grams of high molecular weight bisphenol A polycarbonate, (Makrolon™ 5705 polycarbonate, obtained from Mobay Chemical Co.). After one houl additional stiiling, 238 grams of bisphenol A polycaibonate of lower molecular weight (Lexan 145™ polycarbonate, obtained from General Electric Co.) was added. The mixture was stirred ovemnight, then diluted with 211.5 grams of 1,1,2-tuichloroethane. The resulting slulTy was allowed to evaporate to dryness, and the residue was cut into small pieces. The high molecular weight polycarbonate referred to above was Makrolon 5705™ polycarbonate, obtained from Mobay Chemical Co. Its number average molecular weight, as determined by gel permeation chromatography, is 178,000 polystyrene equivalents. The low molecular weight polycarbonate above was Lexan 145™ polycarbonate, obtained from General Electric Co. Its number average molecular weight as determined by gel permeation chromatography is 51,600 polystyrene equivalents.

reactant | 1,1,2-trichloroethane | 493.5 grams | ClC(CCl)Cl | C2H3Cl3
reactant | bisphenol A polycarbonate | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C(=O)(O)O
catalyst | 4-(4dimethylaminophenyl)-2-(4-ethoxyphenyl)-6-phenyl thiapyrylium tetrafluoroborate | 5.36 grams | F[B-](F)(F)F.CN(C1=CC=C(C=C1)C1=CC(=[S+]C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCC)C
solvent | dichloromethane | 1155 grams | ClCCl | CH2Cl2
product | bisphenol A | 238 grams | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
